US06391874B1
4-Chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)quinazoline
6-(5-Methyl-1,3,4-oxadiazol-2-yl)quinazolin-4-one (0.3 g) was treated with phosphorus oxychloride at reflux under N2 for 5 hours. The mixture was concentrated in vacuo and the residue azeotroped with toluene. This was then taken up in ethyl acetate and washed with 5% sodium bicarbonate and saturated brine, dried over magnesium sulphate and concentrated in vacuo to give the title compound (0.22 g) as a yellow solid; δH [2H6]DMSO 12.65 (1H,bs), 8.71(1H,d), 8.45 (1H,dd), 8.33 (1H,s), 7.95 (1H,s) 2.73 (3H,s).

reactant | 6-(5-Methyl-1,3,4-oxadiazol-2-yl)quinazolin-4-one | 0.3 g | CC1=NN=C(O1)C=1C=C2C(NC=NC2=CC1)=O | C11H8N4O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)quinazoline | 0.22 g | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | C11H7ClN4O
